US07572928B2
A flame dried round-bottomed flask was charged with allyltriisopropylsilane (0.722 mL, 3 mmol, 3 eq), 4-pentenoic acid (0.102 mL, 1 mmol, 1 eq) and dichloromethane (3 nmL). Hoveyda-Grubbs' catalyst (5 mol %, 31 mg) was subsequently added as a solid and the reaction was heated to reflux (40° C.) and left to stir under an atmosphere of argon. After 3 days the reaction was concentrated under reduced pressure to give a dark brown oil. Column chromatography (100% hexane to remove remaining silane, then hexane:ether, 75:25) gave 6-(triisopropylsilyl)-hex-4-enoic acid as a colourless oil (258 mg, 95% yield). For major isomer E: 1H NMR (400 MHz, CDCl3) δ 1.04-1.06 (m, 21H, Si(i−Pr)3), 1.54-1.56 (d, 2H, CH2Si(i−Pr)3, J=8.0 Hz), 2.29-2.35 (m, 2H, HOOCCH2CH2), 2.37-2.42 (m, 2H, HOOCCH2), 5.28-5.35 (m, 1H, CH2CHCH), 5.52-5.60 (m, 1H, CH2CHCH); 13C NMR (100 MHz, CDCl3) δ 11.0 (Si(CH(CH3)2)3), 15.3 (CH2Si(i−Pr)3), 18.7 (Si(CH(CH3)2)3), 27.8 (HOOCCH2CH2), 34.3 (HOOCCH2CH2), 125.9 (CH2CHCH), 129.0 (CH2CHCH), 179.5 (HOOC). For minor isomer Z: 1H NMR (400 MHz, CDCl3) δ 1.04-1.06 (m, 21H, Si(i−Pr)3), 1.62-1.64 (d, 2H, CH2Si(i−Pr)3, J=8.0 Hz), 2.29-2.35 (m, 2H, HOOCCH2CH2), 2.37-2.42 (m, 2H, HOOCCH2), 5.38-5.50 (m, 1H, CH2CHCH), 5.63-5.75 (m, 1H, CH2CHCH); 13C NMR (100 MHz, CDCl3) δ 10.9 (CH2Si(i−Pr)3), 11.1 (Si(CH(CH3)2)3), 18.7 (Si(CH(CH3)2)3), 24.7 (HOOCCH2CH2), 30.9 (HOOCCH2CH2), 124.6 (CH2CHCH), 128.2 (CH2CHCH), 176.9 (HOOC); IR (v, cm−1) 2867 (COO—H), 1713 (HOC═O), 660 (C—Si); HRMS required for C15H30O2Si [M−H]−: 269.1937, found 269.1937.

reactant | allyltriisopropylsilane | 3 mmol, 0.722 mL, 3 eq | C(C=C)[Si](C(C)C)(C(C)C)C(C)C | C12H26Si
reactant | 4-pentenoic acid | 1 mmol, 0.102 mL, 1 eq | C(CCC=C)(=O)O | C5H8O2
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | hexane | CCCCCC | C6H14
catalyst | Hoveyda-Grubbs' catalyst | 31 mg | CC1=CC(=C(C(=C1)C)N2CCN(C2=[Ru](=CC3=C(C=CC=C3)OC(C)C)(Cl)Cl)C4=C(C=C(C=C4C)C)C)C
solvent | ether | CCOCC | C4H10O
product | 6-(triisopropylsilyl)-hex-4-enoic acid | 258 mg, 95% yield | C(C)(C)[Si](CC=CCCC(=O)O)(C(C)C)C(C)C | C15H30O2Si
